US07745646B2
A mixture of 4-chloro-8-(cyclopentyloxy)-7-methoxy-2H-chromen-2-one (170 mg, 0.58 mmol), glycine (52 mg, 0.69 mmol), triethylamine (0.2 mL, 1.4 mmol), and ethanol (2 mL) was heated at 75° C. in a sealed vial. After 2 d, more glycine (136 mg, 1.8 mmol) and triethylamine (0.3 mL, 2.2 mmol) were added. The reaction was heated at 75° C. for an additional day, allowed to cool to rt, concentrated, diluted with ethyl acetate (40 mL), and then washed with 1N HCl (50 mL×3). The organic layer was dried, filtered, and concentrated to give 2-(8-(cyclopentyloxy)-7-methoxy-2-oxo-2H-chromen-4-ylamino)acetic acid: 1H NMR (400 MHz, DMSO-d6): δ 7.87 (t, 1H), 7.68 (d, 1H), 7.08 (d, 1H), 4.88 (s, 1H), 4.81 (m, 1H), 4.00 (d, 2H), 3.87 (s, 3H), 1.90-1.44 (m, 8H); MS (ESI): 333.9.

reactant | 4-chloro-8-(cyclopentyloxy)-7-methoxy-2H-chromen-2-one | 0.58 mmol, 170 mg | ClC1=CC(OC2=C(C(=CC=C12)OC)OC1CCCC1)=O | C15H15ClO4
reactant | glycine | 0.69 mmol, 52 mg | NCC(=O)O | C2H5NO2
reactant | triethylamine | 1.4 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | glycine | 1.8 mmol, 136 mg | NCC(=O)O | C2H5NO2
reactant | triethylamine | 2.2 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-(8-(cyclopentyloxy)-7-methoxy-2-oxo-2H-chromen-4-ylamino)acetic acid | C1(CCCC1)OC=1C(=CC=C2C(=CC(OC12)=O)NCC(=O)O)OC | C17H19NO6
